US06521638B1
Trifluoromethanesulfonic anhydride (9.6 ml) was added to a solution of 2-(tert-butyloxycarbonyl)-5-hydroxy-2,3-dihydro-1H-isoindole (12.2 g) and triethylamine (8.7 ml) at −20° C. under argon. The reaction was stirred overnight at room temperature, then the crude product isolated by extraction and chromatographed to give 2-(tert-butyloxycarbonyl)-5-trifluoromethanesulfonyloxy-2,3-dihydro-1H-isoindole (12.7 g), which was dissolved in DMF (180 ml). To this solution was added zinc cyanide (3.7 g) and tetrakis-triphenylphosphine palladium (0) (3.7 g) and the mixture was heated at 100° C. for 4 h. Work-up and chromatography on silica gel gave the title compound as a solid (7.6 g, 83%).

reactant | Trifluoromethanesulfonic anhydride | 9.6 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(tert-butyloxycarbonyl)-5-hydroxy-2,3-dihydro-1H-isoindole | 12.2 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)O | C13H17NO3
solvent | triethylamine | 8.7 ml | C(C)N(CC)CC | C6H15N
product | 2-(tert-butyloxycarbonyl)-5-trifluoromethanesulfonyloxy-2,3-dihydro-1H-isoindole | 12.7 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OS(=O)(=O)C(F)(F)F | C14H16F3NO5S
